US07560546B2
Step B: Ethyl 3-(morpholin-4-ylsulfonyl)-5-pyrazin-2-yl-1H-indole-2-carboxylate
1-tert-Butyl-2-ethyl 5-iodo-3-(morpholin-4-ylsulfonyl)-1H-indole-1,2-dicarboxylate (100 mg, 0.18 mmol, 1.0 equiv), 2-(tributylstannyl)pyrazine (91 mg, 0.25 mmol, 1.4 equiv), tri-o-tolylphosphine (11 mg, 0.04 mmol, 0.2 equiv) and palladium(II)acetate (4.0 mg, 0.02 mmol, 0.1 equiv) were dissolved in 2 mL of dry DMF and heated to 120° C. for 18 hours. The mixture was cooled to ambient temperature, poured into aqueous saturated NaHCO3 and the aqueous layer was extracted 3 times with dichloromethane. The combined organic extracts were dried Na2SO4), filtered and concentrated in vacuo. Purification by flash chromatography through silica gel (ethyl acetate/dichloromethane) provided the titled compound. Proton NMR for the product was consistent with the titled compound. ESI+MS: 417.4 [M+H]+.

reactant | 1-tert-Butyl-2-ethyl 5-iodo-3-(morpholin-4-ylsulfonyl)-1H-indole-1,2-dicarboxylate | 0.18 mmol, 100 mg, 1.0 equiv | IC=1C=C2C(=C(N(C2=CC1)C(=O)OCCC(C)(C)C)C(=O)[O-])S(=O)(=O)N1CCOCC1
reactant | 2-(tributylstannyl)pyrazine | 0.25 mmol, 91 mg, 1.4 equiv | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
reactant | tri-o-tolylphosphine | 0.04 mmol, 11 mg, 0.2 equiv | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II)acetate | 0.02 mmol, 4.0 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 3-(morpholin-4-ylsulfonyl)-5-pyrazin-2-yl-1H-indole-2-carboxylate | N1(CCOCC1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)C1=NC=CN=C1)C(=O)OCC | C19H20N4O5S
